US07576092B2
To a solution of 2,8-dichloro-4-(4-methyl-piperazin-1-yl)-benzo[4,5]furo[3,2-d]pyrimidine (1.3 g, 3.0 mmol) in pyridine (4 mL) was added 4-methoxybenzylamine (4 mL, 30 mmol). After heating at 200° C. for 1 h in the microwave, the resulting mixture was concentrated and the residue was purified by FCC (CH2Cl2/MeOH) to give [8-chloro-4-(4-methyl-piperazin-1-yl)-benzo[4,5]furo[3,2-d]pyrimidin-2-yl]-(4-methoxy-benzyl)-amine. The intermediate was then dissolved in TFA (7 mL) and heated at 65° C. for 3 h. The mixture was diluted with CH2Cl2 (20 mL) and H2O (20 mL). The product was extracted with CH2Cl2 (2×20 mL). The combined organic layers were washed with 1 N NaOH (20 mL), dried, and concentrated. The residue was purified by reverse-phase chromatography to afford the desired product (523 mg, 55%). MS: 318.1. 1H NMR (CDCl3): 7.99 (d, J=1.99 Hz, 1H), 7.48-7.47 (m, 2H), 4.76 (s, 2H), 4.08-4.06 (m, 4H), 2.57-2.55 (m, 4H), 2.37 (s, 3H).

reactant | 2,8-dichloro-4-(4-methyl-piperazin-1-yl)-benzo[4,5]furo[3,2-d]pyrimidine | 3.0 mmol, 1.3 g | ClC=1N=C(C2=C(N1)C1=C(O2)C=CC(=C1)Cl)N1CCN(CC1)C | C15H14Cl2N4O
reactant | 4-methoxybenzylamine | 30 mmol, 4 mL | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | [8-chloro-4-(4-methyl-piperazin-1-yl)-benzo[4,5]furo[3,2-d]pyrimidin-2-yl]-(4-methoxy-benzyl)-amine | ClC=1C=CC2=C(C=3N=C(N=C(C3O2)N2CCN(CC2)C)NCC2=CC=C(C=C2)OC)C1 | C23H24ClN5O2
